US09315495B2
5-Butyl-1H-indole-2-carbaldehyde was synthesized as in Example 3.1 using 5-bromo-1H-indole-2-carbaldehyde (300 mg, 1.34 mmol) in place of 5-bromo-2-formylfuran and potassium butyltrifluoroborate (352 mg, 2.21 mmol) in place of hexylboronic acid to give 5-butyl-1H-indole-2-carbaldehyde (75 mg, 28%). Used without further characterization.

reactant | 5-bromo-1H-indole-2-carbaldehyde | 1.34 mmol, 300 mg | BrC=1C=C2C=C(NC2=CC1)C=O | C9H6BrNO
reactant | potassium butyltrifluoroborate | 2.21 mmol, 352 mg | C(CCC)[B-](F)(F)F.[K+]
product | 5-butyl-1H-indole-2-carbaldehyde | 75 mg, 28% | C(CCC)C=1C=C2C=C(NC2=CC1)C=O | C13H15NO
